US07612114B2
Isopropyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine
To a solution of 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (300 mg) in tetrahydrofuran (8 ml) were sequentially added acetone (0.4 ml), acetic acid (0.1 ml) and sodium triacetoxyborohydride (780 mg), and the solution was stirred for 2 days at room temperature. The solution was neutralized with ammonia solution, extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (309 mg).

reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 300 mg | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
reactant | acetone | 0.4 ml | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 780 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | Isopropyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 309 mg | C(C)(C)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C21H27NO2
